US06140100
A 500 mL round-bottomed flask equipped with a magnetic stirrer was charged with 3.6 g of 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzyl alcohol and 25 mL of anhydrous CH2Cl2. The solution was cooled in an ice water bath and was treated with 5.68 g of dibromotriphenylphosphorane (Aldrich). The reaction mixture was warmed to RT, stirred for 2.5 h and then diluted with 100 mL of CH2Cl2. The resulting solution was washed with 5% aqueous NaHCO3 (4×60 mL), dried over anhydrous MgSO4 and concentrated to give a white solid. The crude product was purified by flash chromatography on silica gel (95:5 hexane:EtOAc) to afford 3.86 g (88%) of 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzyl bromide as a white crystalline solid, m.p. 54-55° C.

reactant | 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzyl alcohol | 3.6 g | C(C)(C)(C)C=1C=C(CO)C=CC1O[Si](C)(C)C(C)(C)C | C17H30O2Si
reactant | dibromotriphenylphosphorane | 5.68 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzyl bromide | 3.86 g, 88% | C(C)(C)(C)C=1C=C(CBr)C=CC1O[Si](C)(C)C(C)(C)C | C17H29BrOSi
